US09428470B2
D) tert-Butyl 5-(2-tert-butoxy-2-oxoethyl)-3-(3-(3-tert-butoxy-3-oxopropyl)-5-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate
A mixture of tert-butyl 3-(3-(benzyloxy)-5-((1E)-3-tert-butoxy-3-oxoprop-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate (272 mg), 10% Pd/C (containing about 55% water, 27 mg), and THF (3 mL) was stirred at room temperature for 3 hours under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was combined with 10% Pd/C (containing about 55% water, 54 mg) and THF (3 mL), and the obtained mixture was stirred at room temperature for 2 hours under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was combined with 10% Pd/C (containing about 55% water, 81 mg) and THF (3 mL), and the obtained mixture was stirred overnight at room temperature under a hydrogen atmosphere. The catalyst was filtered off, and then, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to obtain the title compound (167 mg).

reactant | tert-butyl 3-(3-(benzyloxy)-5-((1E)-3-tert-butoxy-3-oxoprop-1-en-1-yl)phenyl)-5-(2-tert-butoxy-2-oxoethyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 272 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)\C=C\C(=O)OC(C)(C)C)C1=NOC(C1)(C(=O)OC(C)(C)C)CC(=O)OC(C)(C)C | C34H43NO8
catalyst | Pd/C | 27 mg | [Pd] | Pd
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-(2-tert-butoxy-2-oxoethyl)-3-(3-(3-tert-butoxy-3-oxopropyl)-5-hydroxyphenyl)-4,5-dihydro-1,2-oxazole-5-carboxylate | 167 mg | C(C)(C)(C)OC(CC1(CC(=NO1)C1=CC(=CC(=C1)O)CCC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C27H39NO8
